US08222263B2
To a round bottomed flask containing 4-(4-(1H-indol-5-yl)quinazolin-2-ylamino)-benzoic acid (428 mg, 1.13 mmol) was added 2,6-dimethylaniline (137 mg, 1.13 mmol), HATU (428 mg, 1.13), Hunig's base (400 μL, 2.3 mmol), and dimethylacetamide (4 mL). The stirred mixture was heated to at 50° C. for 14 h, diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with 5% aqueous lithium chloride and saturated sodium chloride, dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The crude material was purified by preparative reverse phase HPLC to afford N-(2,6-dimethylphenyl)-4-{[4-(1H-indol-5-yl)quinazolin-2-yl]amino}benzamide as a yellow solid (24 mg, 5%). 1H NMR (400 MHz, DMSO-d6): δ 11.45 (s, 1H), 10.23 (s, 1H), 9.60 (s, 1H), 8.19 (d, 2H), 8.02 (m, 4H), 7.83 (m, 2H), 7.62 (m, 2H), 7.51 (m, 1H), 7.41 (m, 1H), 7.13 (s, 3H), 6.63 (m, 1H), 2.20 (s, 6H). MS (EI) C31H25N5O: 484.2 (MH+).

reactant | 4-(4-(1H-indol-5-yl)quinazolin-2-ylamino)-benzoic acid | 1.13 mmol, 428 mg | N1C=CC2=CC(=CC=C12)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C23H16N4O2
reactant | 2,6-dimethylaniline | 1.13 mmol, 137 mg | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | HATU | 428 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 2.3 mmol, 400 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
solvent | dimethylacetamide | 4 mL | CC(=O)N(C)C | C4H9NO
product | N-(2,6-dimethylphenyl)-4-{[4-(1H-indol-5-yl)quinazolin-2-yl]amino}benzamide | 24 mg, 5% | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C=1C=C2C=CNC2=CC1)=O | C31H25N5O
